US08193182B2
Synthesis of 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (Compound 1613) (method A)
3-((4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1611) (13 g, 24.9 mmol) and 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (1612)(6.6 g, 30 mmol) were dissolved in DMF-EtOH-H2O (120 mL, 40 mL, 40 mL). Pd(OAc)2 (1.684 g, 7.5 mmol), PPh3 (3.935 g 15 mmol) and Na2CO3 (13.25 g 125 mmol) were added sequentially. The resulting mixture was degassed and back-filled with argon three times and then stirred at 100° C. for 1 h. The mixture was allowed to cool to RT, filtered through silica gel (10 g) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (2-20% MeOH/DCM) to afford the product (1613) (9 g, 76% yield) as a slight yellow solid. Then above product was suspended in EtOH (100 mL) and heated to reflux for 30 min. The mixture was allowed to cool to RT, and the solid was collected by filtration. The solid was then suspended in EA (100 mL) and stirred overnight. The precipitate was collected by filtration and further dried in vacuo to afford the desired product, 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one (1613)(8.4 g, 69% yield) as a white solid.

reactant | 3-((4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 24.9 mmol, 13 g | NC1=C2C(=NC=N1)N(N=C2I)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C23H19IN6O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 30 mmol, 6.6 g | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | PPh3 | 15 mmol, 3.935 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 125 mmol, 13.25 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF EtOH-H2O | 120 mL | CN(C)C=O.C(C)O.O
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd(OAc)2 | 7.5 mmol, 1.684 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-((4-amino-3-(3-hydroxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)-8-methyl-2-o-tolylisoquinolin-1(2H)-one | 8.4 g, 69% yield | NC1=C2C(=NC=N1)N(N=C2C2=CC(=CC=C2)O)CC=2N(C(C1=C(C=CC=C1C2)C)=O)C2=C(C=CC=C2)C | C29H24N6O2
